US05017701
(a) 2-Amino-6-[(phenacylmethyl)thio]purine
A mixture of thioguanine (8.36 g), phenacyl bromide (9.95 g) and potassium carbonate (7.60 g) in N,N-dimethylformamide (100 cm3) was stirred at ambient temperature for 20 hours. The reaction mixture was filtered and the filtrate evaporated to give a cream solid. Recrystallisation from boiling methanol (100 cm3) gave 10.3 g (72.2%) of the title compound m.p. 204°-205° C.

reactant | thioguanine | 8.36 g | N1C(N)=NC=2N=CNC2C1=S | C5H5N5S
reactant | phenacyl bromide | 9.95 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | potassium carbonate | 7.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 cm3 | CN(C=O)C | C3H7NO
product | 2-Amino-6-[(phenacylmethyl)thio]purine | 10.3 g, 72.2% | NC1=NC(=C2NC=NC2=N1)SCCC(=O)C1=CC=CC=C1 | C14H13N5OS
